US07157577B2
4-(4-Carboxy-phenyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (11.8 g), 11.8 mL of ethylene glycol, 36 mL of water and 13.6 mL of 9 N potassium hydroxide were refluxed at 105° C. for 25 minutes. Thin layer chromatography (ethyl acetate:hexane:acetic acid 4:6:0.5) showed conversion of all starting material at Rf 0.5 to a new product at Rf 0.3. The mixture was cooled to 98° C. and 13 mL of 10 N hydrochloric acid was added to a pH of 2.0 accompanied by rapid release of carbon dioxide gas. The maximum temperature reached was 103° C. which dropped to 95° C. by the end of the gas evolution. The mixture was cooled in an ice bath and vigorously stirred for 30 minutes. The solids were collected by vacuum filtration and washed three times with 20 mL of water each time to give 8.7 g (99% yield) of 4-(2,4-dimethyl-1H-pyrrol-3-yl)-benzoic acid as a light purple solid. 1H-NMR (dimethylsulfoxide-d6) δ 2.00, 2.18 (2×s, 2×3H, 2×CH3), 6.46 (s, 1H, pyrrole CH), 7.34, 7.90 (multiplets, 4H, aromatic), 10.49 (br s, 1H, NH), 12.70 (br s, 1H, COOH). MS m/z 216 [M+1].

reactant | 4-(4-Carboxy-phenyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 11.8 g | C(C)OC(=O)C=1NC(=C(C1C)C1=CC=C(C=C1)C(=O)O)C | C16H17NO4
reactant | potassium hydroxide | 9 N, 13.6 mL | [OH-].[K+]
reactant | hydrochloric acid | 10 N, 13 mL | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethyl acetate hexane acetic acid | C(C)(=O)OCC.CCCCCC.C(C)(=O)O
solvent | water | 36 mL | O | H2O
solvent | ethylene glycol | 11.8 mL | C(CO)O | C2H6O2
product | 4-(2,4-dimethyl-1H-pyrrol-3-yl)-benzoic acid | 8.7 g, 99% yield | CC=1NC=C(C1C1=CC=C(C(=O)O)C=C1)C | C13H13NO2
